US07265137B2
(1) Ethyl [4-[4-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]-1-buten-2-yl]-2-methylphenoxy]acetate
In a dry ether (2 mL), potassium t-butoxide (120 mg, 1.07 mmol) was suspended. Methyl triphenyl phosphonium bromide (350 mg, 0.98 mmol) was added to the suspension. The mixture was stirred for 2 hours at room temperature. [4-[3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]ethyl acetate (450 mg, 0.89 mmol) and a dry ether (1.5 mL) were added to the mixture. The resulting mixture was stirred for 16 hours at room temperature. Methyl triphenyl phosphonium bromide (175 mg, 0.49 mmol), a dry ether (5 mL) and potassium t-butoxide (60 mg, 0.53 mmol) were added to the reaction mixture. The resulting mixture was stirred for 30 minutes at room temperature. The mixture was refluxed for 4 hours, and allowed to room temperature. Ethyl acetate (10 mL) was added to the reaction mixture. The mixture was washed with water (10 mL), and a saturated saline (10 mL), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel with ethyl acetate/hexane (1/9) to give the desired compound (131 g) as colorless oil (yield 29%).

reactant | ether | 2 mL | CCOCC | C4H10O
reactant | potassium t-butoxide | 1.07 mmol, 120 mg | CC(C)([O-])C.[K+]
reactant | [4-[3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]ethyl acetate | 0.89 mmol, 450 mg | C(C)(=O)OCCOC1=C(C=C(C=C1)C(CCC=1N=C(OC1C(C)C)C1=C(C=C(C=C1)Cl)Cl)=O)C | C26H27Cl2NO5
reactant | ether | 1.5 mL | CCOCC | C4H10O
reactant | ether | 5 mL | CCOCC | C4H10O
reactant | potassium t-butoxide | 0.53 mmol, 60 mg | CC(C)([O-])C.[K+]
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Methyl triphenyl phosphonium bromide | 0.98 mmol, 350 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | Methyl triphenyl phosphonium bromide | 0.49 mmol, 175 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl [4-[4-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]-1-buten-2-yl]-2-methylphenoxy]acetate | 131 g, yield 29% | ClC1=C(C=CC(=C1)Cl)C=1OC(=C(N1)CCC(=C)C1=CC(=C(OCC(=O)OCC)C=C1)C)C(C)C | C27H29Cl2NO4
